US07241792B2
(±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carbonitrile (0.184 g, 1.06 mmol) was taken up in 1,4-dioxane (10 mL) with zinc dibromide (0.500 g, 2.22 mmol) and sodium azide (0.300 g, 4.62 mmol) in a heavy walled glass tube. The resulting solution was heated under microwave irradiation to 200° C. for 1 hour. The solution was poured into 1M aqueous hydrochloric acid (10 mL) and extracted into ethyl acetate (50 mL). Solvent was removed under reduced pressure and the resulting oil purified by preparative HPLC to give (±)-1,1-dimethyl-4-(2H-tetrazol-5-yl)-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene as a white solid. m/z (ES+): 217 [M+H]+, 189 [M−N2+H]+; 1H NMR (CD3OD): δ 2.87 (dd, 1H, J1=16.5, J2=5.6), 2.67 (dd, 1H, J1=16.5, J2=0.8), 2.1–2.0 (m, 2H), 1.08 (s, 3H), 0.69 (s, 3H).

reactant | (±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carbonitrile | 1.06 mmol, 0.184 g | CC1(C2C1CC1=C(NN=C21)C#N)C | C10H11N3
reactant | sodium azide | 4.62 mmol, 0.300 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1M, 10 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | zinc dibromide | 2.22 mmol, 0.500 g | [Br-].[Br-].[Zn+2]
product | (±)-1,1-dimethyl-4-(2H-tetrazol-5-yl)-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene | CC1(C2C1CC1=C(NN=C21)C=2N=NNN2)C | C10H12N6
